US04379927
1-Methyl-2-phenyl-4-ethoxycarbonylmethylimidazole
A mixture of 6.12 g of N-methylbenzamidine hydrochloride, 4.95 g of the ethyl ester of 4-chloroacetoacetic acid, 18.5 ml of hexamethyldisilazane, 1.27 ml of trimethylchlorosilane, and 350 ml of acetonitrile was heated under reflux until the analytical TLC control no longer indicated any starting compound (about 72 hours). Then the mixture was allowed to cool, the volume of the reaction solution was reduced, by concentration under vacuum, to about one-half, thereafter combined with 200 ml of water, and repeatedly extracted with an ether/hexane (1/1) mixture. The combined organic phases were dried over magnesium sulfate, the solvent was removed under vacuum, and the residue was purified by column chromatography on silica gel with pentane/0-100% ethyl acetate as the eluent. Yield: 3.53 g (48%) of the title compound.

reactant | N-methylbenzamidine hydrochloride | 6.12 g | Cl.CNC(C1=CC=CC=C1)=N
reactant | 4-chloroacetoacetic acid | ClCC(CC(=O)O)=O | C4H5ClO3
reactant | hexamethyldisilazane | 18.5 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | trimethylchlorosilane | 1.27 ml | C[Si](Cl)(C)C | C3H9ClSi
reactant | acetonitrile | 350 ml | C(C)#N | C2H3N
product | 1-Methyl-2-phenyl-4-ethoxycarbonylmethylimidazole | CN1C(=NC(=C1)CC(=O)OCC)C1=CC=CC=C1 | C14H16N2O2
